2190-08-17 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -no overnight events
   -repeat hct, coags pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: slept well, no cp, sob, abd pain,dizziness.
   Flowsheet Data as of  [**2190-8-17**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 63 (62 - 92) bpm
   BP: 103/47(61) {96/37(55) - 116/55(70)} mmHg
   RR: 14 (13 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,456 mL
                                                                    630 mL
   PO:
             TF:
   IVF:
                                                                    370 mL
                                                                    630 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    600 mL
                                                                    340 mL
   Urine:
                                                                    600 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,856 mL
                                                                    290 mL
   Respiratory support
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   HEENT: NCAT MMM anicteric pale conjunctiva
   CV: RRR S1S2 no m/r/g
   PULM: clear b/l
   ABD: soft nontender nondistended +bs
   EXT: WWW 2+dp pulses no edema, cyanosis
   NEURO:A&Ox3, interactive and appropriate
   Labs / Radiology
   242 K/uL
   7.2 g/dL
   120 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.3 mEq/L
   31 mg/dL
   106 mEq/L
   140 mEq/L
   19.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2190-8-17**]  12:41 AM
                             [**2190-8-17**]  04:53 AM
   WBC
   10.0
   Hct
   20.3
   19.9
   Plt
   242
   Cr
   0.9
   Glucose
   120
   Other labs: PT / PTT / INR:14.0/24.4/1.2, Ca++:7.7 mg/dL, Mg++:1.6
   mg/dL, PO4:2.6 mg/dL
   TSH 7.0
   Assessment and Plan
   Assesment: This is a 79 year-old female with a history of HTN, embolic
   CVA on coumadin, hypothyroidism who presents with weakness,
   palpitations, orthostasis and unintentional weightloss found to have
   +guaiac stools  and HCT of 17 in ED. Patient with very low hematocrit,
   elevated INR of 2.5 on admission and blood in stool raises concern of
   active GI bleeding, possibly due to undiagnosed malignancy. Patient has
   not had a colonoscopy in the past.  GI has seen patient in the ED and
   is currently following.
   .
   Plan:
   # GI Bleed
 Patient received 2U PRBC yesterday with little response in
   hct (19 this am). This may be due to the fact that she received fluids
   as well as blood products. She is currently mildly hypotensive, but no
   BRBPR. Per GI recommendations this morning would like to get hct to
   mid-20s and INR<1.5, start bowel prep for endo-colonoscopy tomorrow
   morning.
   - f/u any further GI recs today
   - monitor serial HCT, Q6H x4
   - Transfuse for Hct > 21
   - IV PPI
   - hold coumadin/ASA
   - clear liquid diet, plan for bowel prep once INR <1.5
   .
   # Palpitations: Patient denies any palpitations overnight. Likely
   secondary to hypotension and orthostasis given poor PO intake. Unlikely
   to be hyperthyroid given elevated TSH. Troponins negative x1 so less
   likely to be ischemic in nature.
   - telemetry
   - IVF as above
   .
   # Hypotension: BP and HR have stabilized overnight and patient
   dizziness has resolved. However she has not been out of bed yet.
   Continue fluids as needed and monitor on telemetry.
   - IV D5 1/2NS, bolus prn for SBP<90
   - transfuse hct<21 as above
   - monitor on telemetry
   - bedrest/fall precautions given orthostasis
   - hold home anti-hypertensives
   .
   # CVA: Embolic CVA in [**2186**], on coumadin. INR 2.5 on admission which is
   within goal range, however in setting of GI bleed will hold off for now
   until post-EGD. Not entirely sure why pt has to be on both aspirin and
   coumadin for CVA at this point?
   - hold coumadin given presumed active bleed, hold aspirin
   - telemetry
   .
   # Hypertension: patient on atenolol and hctz as outpatient, will hold
   in setting of hypotension.
   - hold atenolol, HCTZ,resume once hypotension resolves
   - monitor on telemetry
   .
   # Hyperlipidemia:
   - continue home statin
   .
   # Hypothyroidism: Patient has been on levothyroxine for some time. TSH
   pending. Will continue outpatient dose of levothyroxine provided TSH
   levels are elevated. Levothyroxine likely needs to be increased from
   current dose.
   -increase levothyroxine to 100mcg qd (pt only on it 6 days/week?)
   .
   # FEN: on clears for now, IV D5 1/2NS@ 100ml/hr + bolus prn as above;
   monitor electrolytes and replete prn
   .
   # Access: 18G PIVx2
   .
   # PPx:  IV PPI
   .
   # Code: DNR/DNI, confirmed
   .
   # Dispo: ICU care until hct stable, possible EGD/colonoscopy in AM
   .
   # Comm: Daughter [**Name (NI) 1705**] cell [**Telephone/Fax (1) 1711**], home [**Telephone/Fax (1) 1712**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-8-16**] 06:05 PM
   20 Gauge - [**2190-8-16**] 08:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2190-08-18 07:01:00 Physician Resident Progress Note
Chief Complaint: 79 year old female with history of HTN, embolic CVA on
   coumadin, hypothyroidism who presents with weakness, palpitations,
   orthostasis and unintentional weight loss found to have + guiac stools
   and hct of 17 in ED. ED demonstrated large gastric mass. pathology
   pending
   24 Hour Events:
 ENDOSCOPY - At [**2190-8-17**] 12:10 PM
   Yesterday patient underwent upper endoscopy which revealed large
   gastric mass.  Gi reccomended CT scan of abdomen which was completed
   last night. otherwise patient without complaints. No bowel movement
   since arrival. No chest pain, no shortness of breath, no abdominal
   pain. No melena or hematemesis. Denies dizziness or weakness
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-8-17**] 08:04 AM
   Midazolam (Versed) - [**2190-8-17**] 12:10 PM
   Fentanyl - [**2190-8-17**] 12:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-18**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 63 (58 - 83) bpm
   BP: 118/63(74) {94/41(55) - 154/97(101)} mmHg
   RR: 12 (7 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,665 mL
                                                                    500 mL
   PO:
                                                                    975 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    940 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,605 mL
                                                                    840 mL
   Urine:
                                                                  1,605 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time and place, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   273 K/uL
   10.4 g/dL
   82 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   20 mg/dL
   105 mEq/L
   137 mEq/L
   28.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2190-8-17**]  12:41 AM
                             [**2190-8-17**]  04:53 AM
                             [**2190-8-17**]  01:48 PM
                             [**2190-8-17**]  06:00 PM
                             [**2190-8-17**]  11:50 PM
                             [**2190-8-18**]  05:15 AM
   WBC
   10.0
   10.3
   Hct
   20.3
   19.9
   28.1
   29.4
   28.6
   28.7
   Plt
   242
   273
   Cr
   0.9
   0.9
   TropT
   <0.01
   Glucose
   120
   82
   Other labs: PT / PTT / INR:12.9/25.4/1.1, CK / CKMB /
   Troponin-T:58/3/<0.01, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assesment: This is a 79 year-old female with a history of HTN, embolic
   CVA on coumadin, hypothyroidism who presents with weakness,
   palpitations, orthostasis and unintentional weightloss found to have
   +guaiac stools  and HCT of 17 in ED. Patient with very low hematocrit,
   elevated INR of 2.5 on admission and blood in stool raises concern of
   active GI bleeding, possibly due to undiagnosed malignancy. Patient has
   not had a colonoscopy in the past.  Now s/p upper endoscopy revealing
   large stomach mass concerning for malignancy with pathology pending.
   Plan:
   # GI Bleed
 Patient received total of 4 U pRBCs. Crit this morning is
   28, which is stable from yesterday. Currently afebrile, normotensive
   with normal heart rate.  No signs of brisk bleed - no melena or
   hematemesis. Patient had CT scan yesterday of abdomen to furthur
   work-up malignancy. Initially plan for colonscopy for furthur work-up
   but as per GI currently going to hold off.
   - biopsy results pending
   - consider surgical consult pending biopsy results
   - changed PPi to 40 [**Hospital1 7**]
   - f/u read of CT abdomen
   - Transfuse for Hct > 21
   - IV PPI
   - hold coumadin/ASA for now
   - clear liquid diet
   .
   # Palpitations: Patient currently without palpitations, issue appears
   to have resolved. Likely initially secondary to hypotension and
   orthostasis given poor PO intake. Unlikely to be hyperthyroid given
   elevated TSH. Troponins negative x2 so less likely to be ischemic in
   nature.
   - cont telemetry monitoring while in the ICU
   # Hypotension: Patient currently normotensive (resolved)
   - maintence fluids if NPO or if taking poor PO intake
   - transfuse hct<21 as above
   - bedrest/fall precautions given orthostasis
   - hold home anti-hypertensives
   .
   # CVA: Embolic CVA in [**2186**], on coumadin. INR 2.5 on admission which is
   within goal range, however in setting of GI bleed will hold off for now
   until post-EGD. Not entirely sure why pt has to be on both aspirin and
   coumadin for CVA at this point?
   - hold coumadin given presumed active bleed, continue to hold aspirin
   in the setting of gastric mass which likely bled
   - telemetry
   - will follow-up with GI regarding recs for restaring meds
   .
   # Hypertension: patient on atenolol and hctz as outpatient, will hold
   in setting of hypotension.
   - currently normotensive
   .
   # Hyperlipidemia:
   - continue home statin
   .
   # Hypothyroidism: Patient has been on levothyroxine for some time. TSH
   7 which is slightly elevated. appears that patient on 100 of
   levothroxyine at home 6 times a week, will change to daily in the
   setting of elevated TSH, would also consider uptitration of medication
   -cont  levothyroxine as above
   .
   # FEN: on clears for now, monitor electrolytes and replete prn
   .
   # Access: 18G PIVx2
   .
   # PPx:  IV PPI [**Hospital1 7**], docusate, [**Last Name (LF) 1773**], [**First Name3 (LF) **] start heparin subQ
   .
   # Code: DNR/DNI, confirmed
   .
   # Dispo: ICU care until hct stable, possible EGD/colonoscopy in AM
   .
   # Comm: Daughter [**Name (NI) 1705**] cell [**Telephone/Fax (1) 1711**], home [**Telephone/Fax (1) 1712**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-8-16**] 06:05 PM
   20 Gauge - [**2190-8-16**] 08:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2190-08-18 10:34:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2190-8-17**] 12:10 PM
 CALLED OUT
   EGD with large gastric mass noted
   CT scan revealing gastic mass and final read pending
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2190-8-17**] 12:10 PM
   Fentanyl - [**2190-8-17**] 12:12 PM
   Pantoprazole (Protonix) - [**2190-8-18**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2190-8-18**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-18**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 75 (58 - 83) bpm
   BP: 128/60(75) {98/41(55) - 154/97(101)} mmHg
   RR: 18 (7 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,665 mL
                                                                    510 mL
   PO:
                                                                    975 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    940 mL
                                                                     10 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,605 mL
                                                                  1,040 mL
   Urine:
                                                                  1,605 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   273 K/uL
   82 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   20 mg/dL
   105 mEq/L
   137 mEq/L
   28.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2190-8-17**]  12:41 AM
                             [**2190-8-17**]  04:53 AM
                             [**2190-8-17**]  01:48 PM
                             [**2190-8-17**]  06:00 PM
                             [**2190-8-17**]  11:50 PM
                             [**2190-8-18**]  05:15 AM
   WBC
   10.0
   10.3
   Hct
   20.3
   19.9
   28.1
   29.4
   28.6
   28.7
   Plt
   242
   273
   Cr
   0.9
   0.9
   TropT
   <0.01
   Glucose
   120
   82
   Other labs: PT / PTT / INR:12.9/25.4/1.1, CK / CKMB /
   Troponin-T:58/3/<0.01, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Imaging: CT ABD-patient has gastic mass seen and concern for liver
   involvement and pancreatic involvement.
   Assessment and Plan
   79 yo female admit with GI bleed--with subacute evolution to the point
   of having significant orthostatic hypotension associated with it.  Upon
   further evaluation she has had concern raised for gastric mass and
   biopsies have been taken.  CT scan does support the concern for
   malignancy and current planning is aound considering next steps in
   evaluation and treatment of the mass identified.
   1)GI Bleed
reasonable stability of HCT
   -Continue with PPI
   -Return to PO diet
   -Goal HCT stable at 24 and will check [**Hospital1 7**]
   -Colonsocpy deferred
   2)Gastic Mass-
   -Biopsies pending
   -Consider further imaging based upon findings of biopsy
   -Will have to consider consultation with GI and possibly oncology to
   consider further evaluation and treatment planning.
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-8-16**] 06:05 PM
   20 Gauge - [**2190-8-16**] 08:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes